US06713499B2
To a stirred solution of 1.00 g (7.29 mmol) N-methyl-p-anisidine in 15 ml acetonitrile at 0° C. were added dropwise 1.36 ml (8.02 mmol) N-ethyldiisopropylamine and 1.01 g (7.29 mmol) 2-bromoethyl methyl ether. The mixture was heated at 80° C. for 2 days and then concentrated in vacuo. Flash chromatography (1/9 ethyl acetate/hexane) afforded 1.20 g (84%) (2-methoxy-ethyl)-(4-methoxy-phenyl)-methyl-amine as an orange oil. ES-MS m/e (%): 196 (M+H+, 100).

reactant | N-methyl-p-anisidine | 7.29 mmol, 1.00 g | CNC1=CC=C(OC)C=C1 | C8H11NO
reactant | N-ethyldiisopropylamine | 8.02 mmol, 1.36 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 2-bromoethyl methyl ether | 7.29 mmol, 1.01 g | COCCBr | C3H7BrO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | (2-methoxy-ethyl)-(4-methoxy-phenyl)-methyl-amine | 1.20 g, 84% | COCCN(C)C1=CC=C(C=C1)OC | C11H17NO2
